US06989393B2
4-tert-Butoxycarbonylamino-1-N-(3,3-diphenylpropyl)piperidine
To a solution of 4-(Boc-amino) piperidine (10 g, 50 mmol) in acetonitrile (200 ml) was added 3,3-diphenylpropyl bromide (15.1 g, 55 mmol), tetra-butylammonium iodide (2 g, 5 mmol) and potassium carbonate (15 g, 100 mmol) and the mixture refluxed. After 5 h the reaction mixture was cooled and poured into water. The solution was partitioned with EtOAc and the organic layer dried (MgSO4), concentrated and purified by column chromatography (toluene: EtOAc, 1:1 with 1% triethylamine) to give the title compound as an oil (15.9 g, 40 mmol); MS: 395.

reactant | 4-(Boc-amino) piperidine | 50 mmol, 10 g | C(=O)(OC(C)(C)C)NC1CCNCC1 | C10H20N2O2
reactant | 3,3-diphenylpropyl bromide | 55 mmol, 15.1 g | C1(=CC=CC=C1)C(CCBr)C1=CC=CC=C1 | C15H15Br
reactant | potassium carbonate | 100 mmol, 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | tetra-butylammonium iodide | 5 mmol, 2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-tert-Butoxycarbonylamino-1-N-(3,3-diphenylpropyl)piperidine | 40 mmol, 15.9 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H34N2O2
